US09238653B2
Step (A) Synthesis of 7-Methylimidazo[1,2-a]pyrimidin-5-ol
A solution of 1 g (7.58 mmol) 2-aminoimidazole hemisulfate, 1.19 g (9.15 mmol) of ethyl acetoacetate and 15 mL of glacial acetic acid was refluxed for 20-22 hours. Upon completion of the reaction, the mixture is cooled and the solvent is removed in vacuo to give a brownish solid. The brown residue was filtered, washed with methylene chloride and dried under vacuum to give the titled product. Yield 79% (0.893 g).

reactant | 2-aminoimidazole hemisulfate | 7.58 mmol, 1 g | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
reactant | ethyl acetoacetate | 9.15 mmol, 1.19 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 7-Methylimidazo[1,2-a]pyrimidin-5-ol | Yield 79% | CC1=NC=2N(C(=C1)O)C=CN2 | C7H7N3O
